US08563575B2
122c) 6-methyl-1-(1-methylethyl)-3-{4-[(3-methyl-3H-imidazo[4,5-b]pyridin-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one
To a mixture of 3-methyl-2-(methylsulfonyl)-3H-imidazo[4,5-b]pyridine (198 mg) and 3-(4-hydroxyphenyl)-6-methyl-1-(1-methylethyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (177 mg) in DMF (1.5 mL) was added NaH (40.0 mg), and the mixture was stirred at 100° C. for 1 h. The mixture was heated at 180° C. for 30 min under microwave irradiation. The mixture was poured into water, and the mixture was extracted with EtOAc. The organic layer was separated, washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by column chromatography (silica gel, EtOAc/hexane) to give the title compound (125 mg) as white crystals.

reactant | 3-methyl-2-(methylsulfonyl)-3H-imidazo[4,5-b]pyridine | 198 mg | CN1C(=NC=2C1=NC=CC2)S(=O)(=O)C | C8H9N3O2S
reactant | 3-(4-hydroxyphenyl)-6-methyl-1-(1-methylethyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 177 mg | OC1=CC=C(C=C1)N1C(N(C=2C1=NC=C(C2)C)C(C)C)=O | C16H17N3O2
reactant | NaH | 40.0 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 6-methyl-1-(1-methylethyl)-3-{4-[(3-methyl-3H-imidazo[4,5-b]pyridin-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 125 mg | CC=1C=C2C(=NC1)N(C(N2C(C)C)=O)C2=CC=C(C=C2)OC2=NC=1C(=NC=CC1)N2C | C23H22N6O2
